US07465795B2
4-amino-7-methoxy-8-phenyl-N-propyl-cinnoline-3-carboxamide
Using Method F, 4-amino-7-methoxy-8-iodo-N-propyl-cinnoline-3-carboxamide (311 mg, 0.81 mmol) and phenylboronic acid (394 mg, 3.24 mmol) were reacted (refluxed overnight) to afford the title compound (140 mg, 52% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.51 (bm, 1H), 7.90 (d, J=9.2 Hz, 1H), 7.52 (d, J=9.2 Hz, 1H), 7.36-7.50 (m, 5H), 3.92 (s, 3H), 3.43 (apparent q, J=6.4 Hz, 2H), 1.63 (apparent sextet, J=7.2 Hz, 2H), 0.98 (t, J=7.4 Hz, 3H). MS APCI, m/z=337 (M+H) HPLC 1.76 min.

reactant | 4-amino-7-methoxy-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.81 mmol, 311 mg | NC1=C(N=NC2=C(C(=CC=C12)OC)I)C(=O)NCCC | C13H15IN4O2
reactant | phenylboronic acid | 3.24 mmol, 394 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 4-amino-7-methoxy-8-phenyl-N-propyl-cinnoline-3-carboxamide | 140 mg, 52% yield | NC1=C(N=NC2=C(C(=CC=C12)OC)C1=CC=CC=C1)C(=O)NCCC | C19H20N4O2
